* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE02\LTspice\DIODEMODEL01op.asc
Vcc i 0 {Vcc}
R0 o 0 {R0}
D0 i o D0
.model D D
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.dio
.op
.temp {Td}
.meas Von PARAM v(i)-v(o) - func1
.param Vcc=20 R0=750 Td=40
.model D0 D(Is=8p n=1.4)
.backanno
.end
